US06562807B2
(S)-3{-4-[1-(4-Cyclohex-1-enylphenyl)-3-(3,5-dichlorophenyl)ureidomethyl]benzoylamino}-2-hydroxypropionic Acid
4-[1-(4-Cyclohex-1-enylphenyl)-3-(3,5-dichlorophenyl)ureidomethyl]benzoic acid (130 mg, 0.26 mmol) was dissolved in DMF (2 mL), then EDAC (50 mg, 0.26 mmol) and HOBt (43 mg, 0.32 mmol) were added and the reaction mixture was stirred at room temperature for 1 hour. The above crude (S)-2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylmethylammonium trifluoroacetate was dissolved in DMF (1 mL) and added to the reaction mixture together with diisopropylethylamine (450 mg, 3.5 mmol). The mixture was stirred at room temperature for 16 hours.

reactant | 4-[1-(4-Cyclohex-1-enylphenyl)-3-(3,5-dichlorophenyl)ureidomethyl]benzoic acid | 0.26 mmol, 130 mg | C1(=CCCCC1)C1=CC=C(C=C1)C(C1=CC=C(C(=O)O)C=C1)NC(=O)NC1=CC(=CC(=C1)Cl)Cl | C27H24Cl2N2O3
reactant | EDAC | 0.26 mmol, 50 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.32 mmol, 43 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (S)-2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylmethylammonium trifluoroacetate | FC(C(=O)[O-])(F)F.CC1(OC([C@@H](O1)C[NH3+])=O)C
reactant | diisopropylethylamine | 3.5 mmol, 450 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (S)-3{-4-[1-(4-Cyclohex-1-enylphenyl)-3-(3,5-dichlorophenyl)ureidomethyl]benzoylamino}-2-hydroxypropionic Acid | C1(=CCCCC1)C1=CC=C(C=C1)C(C1=CC=C(C(=O)NC[C@@H](C(=O)O)O)C=C1)NC(=O)NC1=CC(=CC(=C1)Cl)Cl | C30H29Cl2N3O5
